US04497813
A mixture of 6.5 g of 5-(2-bromoethoxy)salicylamide and 8.9 g of 1-(2-allyloxyphenoxy)-3-aminopropan-2-ol is melted in an oil bath at 100° and stirred for 1 hour using a magnetic stirrer. The working up is carried out analogously to Example 11 and yields 1-(2-allyloxyphenoxy)-3-[2-(3-carbamoyl-4-hydroxyphenoxy)ethylamino]-propan-2-ol having a melting point of 147°-148° (from isopropanol).

reactant | 5-(2-bromoethoxy)salicylamide | 6.5 g | BrCCOC1=CC=C(C(C(=O)N)=C1)O | C9H10BrNO3
reactant | 1-(2-allyloxyphenoxy)-3-aminopropan-2-ol | 8.9 g | C(C=C)OC1=C(OCC(CN)O)C=CC=C1 | C12H17NO3
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-(2-allyloxyphenoxy)-3-[2-(3-carbamoyl-4-hydroxyphenoxy)ethylamino]-propan-2-ol | C(C=C)OC1=C(OCC(CNCCOC2=CC(=C(C=C2)O)C(N)=O)O)C=CC=C1 | C21H26N2O6
